US07459556B2
Step (c)(ii): 8-[Bis(2-chlorophenyl)methyl]-3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol
Under N2, a well stirred mixture of 3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol hydrochloride (4.5 g, 14 mmol), 1,1′-(bromomethylene)bis(2-chlorobenzene) (5.0 g, 16 mmol) and K2CO3 (10.0 g, 72 mmol) in CH3CN (50 ml) was stirred under reflux and the reaction was followed by HPLC. After complete reaction (36 to 48 h) the mixture was cooled to 20-25° C., water (50 ml) was added and the suspension was stirred for 3 h. The product was filtered off, washed with water (2×25 ml) and dried to constant weight under vacuum and a slight stream of N2 at 50° C. Yield: 5.5 g (87% abs.). Assay (HPLC): 97% pure vs. standard.

reactant | 3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol hydrochloride | 14 mmol, 4.5 g | Cl.N1=C(N=CC=C1)C1(CC2CCC(C1)N2)O
reactant | 1,1′-(bromomethylene)bis(2-chlorobenzene) | 16 mmol, 5.0 g | BrC(C1=C(C=CC=C1)Cl)C1=C(C=CC=C1)Cl | C13H9BrCl2
reactant | K2CO3 | 72 mmol, 10.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 8-[Bis(2-chlorophenyl)methyl]-3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol | ClC1=C(C=CC=C1)C(N1C2CC(CC1CC2)(O)C2=NC=CC=N2)C2=C(C=CC=C2)Cl | C24H23Cl2N3O
